US05574178
Triethylsilane (2.8 ml) was added to 4-tert-butyl-5-hydroxy-2-octylbenzofuran (300 mg, 1.0 mmol) and, then, trifluoroacetic acid (1.4 ml) was added dropwise under ice cooling. The mixture was stirred first at 0° C. for 15 min, then at room temperature for 1 h. Thereafter, the mixture was poured into ice water and subjected to extraction with ethyl acetate. The organic layer was washed with a saturated aqueous solution of sodium hydrogen carbonate, dried over anhydrous magnesium sulfate and concentrated. The concentrate was purified by silica gel chromatography (chloroform) to afford 4-tert-butyl-5-hydroxy-2-octyl-2,3-dihydrobenzofuran [252 mg (yield, 83%)] as a colorless oil. Mass 304(M+), 289, 137, 57

reactant | Triethylsilane | 2.8 ml | C(C)[SiH](CC)CC | C6H16Si
reactant | 4-tert-butyl-5-hydroxy-2-octylbenzofuran | 1.0 mmol, 300 mg | C(C)(C)(C)C1=C(C=CC2=C1C=C(O2)CCCCCCCC)O | C20H30O2
reactant | trifluoroacetic acid | 1.4 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 4-tert-butyl-5-hydroxy-2-octyl-2,3-dihydrobenzofuran | 252 mg, 83% | C(C)(C)(C)C1=C(C=CC2=C1CC(O2)CCCCCCCC)O | C20H32O2
